US09125814B2
Mepivacaine-Loaded TC Gel (In situ Precipitate)
In a first vial, Mepivacaine-HCl (7.2 mg), 4-arm PEG succinimidyl carbonate (60 mg) and 4-arm PEG-SH (60 mg) were dissolved in 250 μL of pH 2.2 buffer. This solution was combined with an equal volume of carbonate buffer (pH 9.7) through a spray kit. Mepivacaine precipitated within the gel upon mixing. The Mepivacaine-loaded TC gel swelled 2-2.5 times its original volume.

reactant | Mepivacaine HCl | 7.2 mg | CC1=CC=CC(=C1NC(=O)C2CCCCN2C)C.Cl
reactant | succinimidyl carbonate | 60 mg | C(ON1C(CCC1=O)=O)([O-])=O
reactant | carbonate | pH 9.7 | C([O-])([O-])=O
product | Mepivacaine | CC1=CC=CC(=C1NC(=O)C2CCCCN2C)C | C15H22N2O
